datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:23]([C:22](=[C:21]([H:25])[H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])[H:11])([H:9])[H:10],40.794
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](#[C:19][C:20]([C:21]([H:24])([H:25])[H:26])[C:22]([H:27])([H:28])[H:29])[H:23]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:20]([C:19]#[C:18][H:23])([C:21]([H:24])([H:25])[H:26])[C:22]([H:27])([H:28])[H:29])[H:11])[H:10],32.8444
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12])[H:5])[H:4],36.2334
[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8].[O:0]([C:1](=[S:2])[H:4])[H:3]>>[O:0]([C:1]([S:2])([H:4])[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8])[H:3],16.3176
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])([H:14])[H:15])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([C:7]([H:18])([H:19])[H:20])[C:6]1([H:16])[H:17])[H:10])([H:8])[H:9],164.766
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[H:10]>>[C:0]([N:1][C:2]([H:7])([H:8])[H:9])([H:3])([H:4])[H:5].[H:6][H:10],40.609904
[C:0](=[N:1])([H:2])[H:3].[N:4]([H:5])[H:6]>>[C:0](#[N:1])[H:3].[H:2][N:4]([H:5])[H:6],-4.8116
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13],40.5848
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:6])([H:7])[H:8]>>[C:0]([C:1]1([C:2]([H:9])([H:10])[H:11])[C:3]([H:12])([H:13])[O:4]1)([H:6])([H:7])[H:8].[O:5][H:14],56.0656
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20])[H:8])[H:7],2.55224
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22]([C:23]([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:30])([H:31])[H:32]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:23]([C:22]([H:30])([H:31])[H:32])([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33],56.0656
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24])[H:11])([H:9])[H:10],13.0959
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18])[H:16])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])=[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])[H:13])([H:11])[H:12],114.432
[N:0]([H:1])[H:2].[O:3][H:4]>>[H:1][O:3][H:4].[N:0][H:2],83.4834
[H:0][H:1].[N:2][H:3]>>[H:0].[H:1][N:2][H:3],64.504728
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:20]([H:21])([H:22])[H:23])[H:12])([H:10])[H:11],23.8906
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[S:3])[H:13])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:15])[H:14])([H:10])([H:11])[H:12],57.7392
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([S:10][H:21])([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:20])[H:5].[C:8]([C:9]([S:10][H:21])[c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])([H:17])([H:18])[H:19],17.1544
